US05783704
2-Acetyl-4-(pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one (Compound 1.115 in Table 1)
2.4 g of acetyl chloride are added to a suspension of 3.8 g of 4-(pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one in 50 ml of pyridine. The resulting solution is stirred for 14 hours at 20° and then concentrated by evaporation. Water is added to the residue and extraction is carried out with chloroform. The organic phase is concentrated by evaporation and the residue is stirred with ether. The crystals are filtered off with suction and then dried under a high vacuum. 4 g of the title compound having a melting point of 164°-166° are thus obtained.

reactant | acetyl chloride | 2.4 g | C(C)(=O)Cl | C2H3ClO
reactant | 4-(pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one | 3.8 g | N1=CC(=CC=C1)C=NN1C(NN=C1)=O | C8H7N5O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-Acetyl-4-(pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one | C(C)(=O)N1N=CN(C1=O)N=CC=1C=NC=CC1 | C10H9N5O2
